US07585878B2
Methyl 2,6-dichloro-5-fluoronicotinate was treated with dimethylamine in a sealed tube to obtain methyl 2-chloro-6-(dimethylamino)-5-fluoronicotinate, which was then reacted under a hydrogen atmosphere in the presence of palladium/carbon to obtain methyl 6-(dimethylamino)-5-fluoronicotinate.

reactant | Methyl 2,6-dichloro-5-fluoronicotinate | ClC1=C(C(=O)OC)C=C(C(=N1)Cl)F | C7H4Cl2FNO2
reactant | dimethylamine | CNC | C2H7N
product | methyl 2-chloro-6-(dimethylamino)-5-fluoronicotinate | ClC1=C(C(=O)OC)C=C(C(=N1)N(C)C)F | C9H10ClFN2O2
